// characterization single-ended opamp 'op5' in SkyWater 130nm 1V8

simulator lang=spectre
global 0

include "nmos1.scs" section=stat
include "pmos1.scs" section=stat

parameters vs=100m vi=0 vsup=1.8 vcm=0 vo=0 vid=0 vicm=0                      \
           a0=1 cl=5p fin=1k i0=3u rl=100M                                    \
           Lcm1=0.4 Lcm2=0.4 Lcm3=0.4 Ld=0.4 Lc1=0.4 Lr=0.4                   \
           Wcm1=3.0 Wcm2=3.0 Wcm3=3.0 Wd=3.0 Wc1=3.0 Wr=3.0                   \
           Mcm11=1  Mcm212=4 Mcm31=2  Md=2   Mc11=4                           \
           Mcm12=1  Mcm222=2 Mcm32=2         Mc12=2                           \
           Mcm13=2  Mcm2x1=1                                                  \
           A=(Mcm11+Mcm12)*Wcm1*Lcm1+2*Md*Wd*Ld+Wc1*Lc1*(Mc11+Mc12)+          \
             (Mcm31+Mcm32)*Wcm3*Lcm3+Wr*Lr+(2*Mcm2x1+Mcm212+Mcm222)*Wcm2*Lcm2 

subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

// Biasing
VSUPP (VDD CM)  vsource dc=vsup/2 type=dc
VSUPN (CM  VSS) vsource dc=vsup/2 type=dc
IREF  (VDD B)   isource dc=i0     type=dc
VCM   (CM  0)   vsource dc=0      type=dc

//DUT
DUT (B INP INN OUT VDD VSS) op

OUTIDEAL (OUT_IDEAL 0  INP 0) vcvs gain=1/a0

INPSW (INP ICLPULSE ICLSIN INPOL) switch position=1
INNSW (INN FBB             INNOL) switch position=1
OUTSW (OF  OFL  OUT)              switch position=1

IPRB0 (FBA FBB) iprobe
FBNET (FBA CM  OUT CM) vcvs gain=a0

VIPULSE (ICLPULSE CM) vsource type=pulse dc=vid val0=-vs/2 val1=vs/2 \
                              period=100u delay=5u rise=1n
VISIN   (ICLSIN   CM) vsource type=sine  ampl=a0 fa0req=fin
 
CL (OUT CM) capacitor c=cl
RL (OUT CM) resistor  r=rl

VO (OFI CM)  vsource  dc=vo type=dc
L2 (OFI OF)  dcfeed   l=1u
R2 (OFL  CM) resistor r=1M

BALUN (IND INCM INPOL INNOL) ideal_balun

VID  (IND  CM) vsource type=dc dc=vid mag=1
VICM (INCM CM) vsource type=dc dc=vicm

subckt op B INP INN O VDD VSS
    // Biasing Current Mirror
    MNCM11  (B  B   VSS VSS) nmos1 m=Mcm11 w=Wcm1 l=Lcm1 
    MNCM12  (R  B   VSS VSS) nmos1 m=Mcm12 w=Wcm1 l=Lcm1 
    MNCM13  (CM B   VSS VSS) nmos1 m=Mcm13 w=Wcm1 l=Lcm1 

    // Output NMOS Current Mirror
    MNCM31  (Z  Z   VSS VSS) nmos1 m=Mcm31 w=Wcm3 l=Lcm3 
    MNCM32  (O  Z   VSS VSS) nmos1 m=Mcm32 w=Wcm3 l=Lcm3 
    
    // Differential Pair
    MND12   (X  INP CM  VSS) nmos1 m=Md w=Wd l=Ld 
    MND11   (Y  INN CM  VSS) nmos1 m=Md w=Wd l=Ld 

    // Cascode
    MPC1R   (R  R   VDD VDD) pmos1 m=1    w=Wr  l=Lr 
    MPC12   (Z  R   V   VDD) pmos1 m=Mc12 w=Wc1 l=Lc1 
    MPC11   (O  R   W   VDD) pmos1 m=Mc11 w=Wc1 l=Lc1 

    // Output PMOS Current Mirrors
    MPCM222 (V  Y   VDD VDD) pmos1 m=Mcm222 w=Wcm2 l=Lcm2 
    MPCM221 (Y  Y   VDD VDD) pmos1 m=Mcm2x1 w=Wcm2 l=Lcm2 
    MPCM212 (W  X   VDD VDD) pmos1 m=Mcm212 w=Wcm2 l=Lcm2 
    MPCM211 (X  X   VDD VDD) pmos1 m=Mcm2x1 w=Wcm2 l=Lcm2 
ends op

simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 \
                         temp=27 tnom=27 homotopy=all gmin=1e-12 rforce=1 \
                         save=selected dc_pivot_check=yes scale=1u

save DUT.M*:gm  DUT.M*:gds   DUT.M*:id  DUT.M*:gmoverid     \
     DUT.M*:fug DUT.M*:vdsat DUT.M*:vgs DUT.M*:vds          \
     DUT.M*:vbs DUT.M*:gmb   DUT.M*:vth DUT.M*:self_gain    \
     DUT.X      DUT.Y        DUT.Z      DUT.B               \
     DUT.CM     DUT.R        DUT.V      DUT.W               \
     DUT:VDD    DUT:VSS      DUT:O      VSS                 \
     VDD OUT    OUT_IDEAL    INN        INP 

fb1 alter dev=INPSW param=position value=1
fb2 alter dev=INNSW param=position value=1
fb3 alter dev=OUTSW param=position value=1
fb4 alter param=vid value=0
fb5 alter param=vo value=0
fb6 alter param=a0 value=1

dcop dc save=selected title="dcop"

dcmatch (OUT CM) dcmatch mth=0.9 method=statistics nsigma=1 \
    variations=mismatch where=rawfile prevoppoint=yes title="dcmatch"

stb stb start=1 stop=100G probe=IPRB0 localgnd=0 dec=50 title="stb"
tran tran stop=100u errpreset=conservative title="tran"

noise (OUT CM) noise start=1e-3 stop=1G iprobe=VIPULSE \
    separatenoise=no save=selected title="noise"

fb7 alter param=a0 value=0.1
dc1 dc param=vid start=-vsup*0.1 stop=vsup*0.1 lin=500 title="dc1"

ol1 alter dev=INNSW param=position value=2
ol2 alter dev=INPSW param=position value=3
ol3 alter dev=OUTSW param=position value=2

xf (OUT CM) xf  start=1e-3 stop=1G dec=50 title="xf" annotate=no
ac ac freq=1 param=vicm start=-vsup stop=vsup lin=1500 title="ac" annotate=no

ol41 alter param=vid value=vs/2 
ol42 alter param=vo value=-vsup/2
dc3 dc title="dc3"

ol51 alter param=vid value=-vs/2
ol52 alter param=vo value=vsup/2
dc4 dc title="dc4"
